### PR TITLE
[Merged by Bors] - feat: add NormedSpace.log

### PR DESCRIPTION
**Pull request by kbuzzard**
We add `NormedSpace.log` following the design decisions of `NormedSpace.exp`. 

This is the first in a series of PRs aiming to get p-adic logarithms into mathlib. This PR is just porting constructions which are already in the `Mathlib/Analysis/Normed/Algebra/Exponential.lean` file (I stopped at 200 lines; note that the first 60 lines are module docstring and TODOs).

This PR is for the Formal Conjectures repo, which needs p-adic logarithms in order to state Leopoldt's conjecture.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean [hunk 1]
```diff
@@ -0,0 +1,202 @@
...
+variable (𝕂 𝔸 : Type*) [Field 𝕂] [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸] [IsTopologicalRing 𝔸]
+
+/-- `logSeries 𝕂 𝔸` is the `FormalMultilinearSeries` whose `n`-th term is the map
+`(xᵢ) : 𝔸ⁿ ↦ ((-1) ^ (n + 1) / n : 𝕂) • ∏ xᵢ`; its `0`-th term is `0` since `1 / 0 = 0`.
+The corresponding sum evaluated at `x - 1` is the logarithm `NormedSpace.log x`. -/
+def logSeries : FormalMultilinearSeries 𝕂 𝔸 𝔸 := fun n =>
+  ((-1) ^ (n + 1) / n : 𝕂) • ContinuousMultilinearMap.mkPiAlgebraFin 𝕂 n 𝔸
+
+theorem logSeries_eq_ofScalars : logSeries 𝕂 𝔸 = ofScalars 𝔸 fun n ↦ ((-1) ^ (n + 1) / n : 𝕂) := by
+  simp_rw [FormalMultilinearSeries.ext_iff, logSeries, ofScalars, implies_true]
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/Normed/Algebra/Logarithm.lean:78]:
```suggestion
theorem logSeries_eq_ofScalars : logSeries 𝕂 𝔸 = ofScalars 𝔸 fun n ↦ ((-1) ^ (n + 1) / n : 𝕂) := rfl
```

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean [hunk 2]
```diff
@@ -0,0 +1,202 @@
...
+theorem log_eq_logSeries_sum [CharZero 𝕂] : log = fun x : 𝔸 ↦ (logSeries 𝕂 𝔸).sum (x - 1) := by
+  ext x
+  rw [log, dite_eq_left ⟨RestrictScalars.algebra ℚ 𝕂 𝔸⟩, ← @logSeries_sum_eq_rat (𝕂 := 𝕂)]
+
+variable (𝕂) in
+theorem log_eq_tsum [CharZero 𝕂] :
+    log = fun x : 𝔸 ↦ ∑' n : ℕ, ((-1) ^ (n + 1) / n : 𝕂) • (x - 1) ^ n := by
+  rw [log_eq_logSeries_sum 𝕂]
+  ext x
+  exact logSeries_sum_eq (x - 1)
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/Normed/Algebra/Logarithm.lean:138]:
```suggestion
theorem log_eq_tsum [CharZero 𝕂] :
    log = fun x : 𝔸 ↦ ∑' n : ℕ, ((-1) ^ (n + 1) / n : 𝕂) • (x - 1) ^ n := by
  simp_rw [log_eq_logSeries_sum 𝕂, logSeries_sum_eq]
```

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean [hunk 3]
```diff
@@ -0,0 +1,202 @@
...
+
+theorem logSeries_apply_zero (n : ℕ) : logSeries 𝕂 𝔸 n (fun _ ↦ (0 : 𝔸)) = 0 := by
+  rw [logSeries_apply_eq]
+  rcases n with - | n
+  · simp
+  · rw [zero_pow (Nat.succ_ne_zero _), smul_zero]
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/Normed/Algebra/Logarithm.lean:144]:
```suggestion
theorem logSeries_apply_zero (n : ℕ) : logSeries 𝕂 𝔸 n (fun _ ↦ (0 : 𝔸)) = 0 := by
  induction n <;> rw [logSeries_apply_eq] <;> grind [zero_smul, smul_zero]
```

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean [hunk 4]
```diff
@@ -0,0 +1,202 @@
...
+
+@[simp]
+theorem log_one : log (1 : 𝔸) = 0 := by
+  rw [log]
+  split_ifs
+  · simp_rw [sub_self, logSeries_sum_eq, ← logSeries_apply_eq, logSeries_apply_zero, tsum_zero]
+  · rfl
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/Normed/Algebra/Logarithm.lean:151]:
```suggestion
theorem log_one : log (1 : 𝔸) = 0 := by
  simp [log, logSeries_sum_eq, ← logSeries_apply_eq, logSeries_apply_zero, tsum_zero]
```

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean [hunk 5]
```diff
@@ -0,0 +1,202 @@
...
+    simp
+  · rw [log_eq_tsum ℚ, log_eq_tsum ℚ]
+    simp_rw [← MulOpposite.op_one, ← MulOpposite.op_sub, ← MulOpposite.op_pow,
+      ← MulOpposite.op_smul, tsum_op]
+
+theorem star_log [T2Space 𝔸] [StarRing 𝔸] [ContinuousStar 𝔸] (x : 𝔸) :
+    star (log x) = log (star x) := by
+  obtain _ | ⟨⟨_⟩⟩ := isEmpty_or_nonempty (Algebra ℚ 𝔸)
+  · simp
+  · simp_rw [log_eq_tsum ℚ, tsum_star, star_rat_smul, star_pow, star_sub, star_one]
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/Normed/Algebra/Logarithm.lean:166]:
```suggestion
theorem star_log [T2Space 𝔸] [StarRing 𝔸] [ContinuousStar 𝔸] (x : 𝔸) :
    star (log x) = log (star x) := by
  obtain _ | ⟨⟨_⟩⟩ := isEmpty_or_nonempty (Algebra ℚ 𝔸)
  <;> simp [log_eq_tsum ℚ, tsum_star]
```

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Analysis/Normed/Algebra/Logarithm.lean]: I think my proof is clearer and yours is an unnecessary compression. I've used ideas from your proof in a revised proof.

File: Mathlib/Analysis/Normed/Algebra/Logarithm.lean (hunk 5 above)
Comment (kbuzzard) [reply Mathlib/Analysis/Normed/Algebra/Logarithm.lean]: Again I am not keen on these <;> proofs. I've simplified my proof following your ideas.

**Comment by Whysoserioushah** [comment]
Thanks!

maintainer merge

**Comment by j-loreaux** [comment]
bors merge
